US06995144B2
3-Methoxy-6-methylpyrazine-2-carboxaldehyde
After dissolving 300 mg of methyl 3-methoxy-6-methylpyrazine-2-carboxylate in a mixture of 5 ml toluene/5 ml dichloromethane, the solution was cooled to −78° C. Next, 1.21 ml of diisobutylaluminium hydride (1.5 M, toluene solution) was added dropwise and the mixture was stirred for 1 hour. After adding 10 ml of 1N hydrochloric acid dropwise to the reaction solution, extraction was performed with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, a saturated sodium bicarbonate solution and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (118 mg, 47% yield).

reactant | methyl 3-methoxy-6-methylpyrazine-2-carboxylate | 300 mg | COC=1C(=NC(=CN1)C)C(=O)OC | C8H10N2O3
reactant | diisobutylaluminium hydride | 1.5 M, 1.21 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methoxy-6-methylpyrazine-2-carboxaldehyde | 118 mg, 47% yield | COC=1C(=NC(=CN1)C)C=O | C7H8N2O2
